US07915448B2
60A) N-(2,5-Difluoro-4-iodophenyl)methanesulfonamide
To a solution of 2,5-difluoro-4-iodoaniline (5.3 g, 19.4 mmol, Can. J. Chem., 2000(78), 1081-1088) in DCM (50 ml) was added methanesulfonyl chloride (1.65 ml, 21.3 mmol) and pyridine (4.7 ml, 58.2 mmol) at 0° C. The mixture was stirred for 24 hours at room temperature. The mixture was partitioned between EtOAc and 2 M HCl aqueous solution. The organic layer was separated and washed with 2 M aqueous HCl solution and brine, dried over sodium sulfate and concentrated in vacuo. The crude product was purified by silica gel column chromatography eluting with gradually from hexane/EtOAc (4:1) to hexane/EtOAc (3:1) to give the title compound (5.6 g, 87%) as purple solids.

reactant | 2,5-difluoro-4-iodoaniline | 19.4 mmol, 5.3 g | FC1=C(N)C=C(C(=C1)I)F | C6H4F2IN
reactant | methanesulfonyl chloride | 21.3 mmol, 1.65 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 58.2 mmol, 4.7 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2,5-Difluoro-4-iodophenyl)methanesulfonamide | 5.6 g, 87% | FC1=C(C=C(C(=C1)I)F)NS(=O)(=O)C | C7H6F2INO2S
